US08791119B2
To 1.79 g (3.66 mmol) of tert-butyl 6-bromo-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in an autoclave are added 30 ml of 33% aqueous ammonia. The mixture is stirred for 5 hours 30 minutes at 90° C. and, after cooling, is then poured into water, to give 1.26 g of tert-butyl 8-carbamoyl-6-bromo-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate after drying over potassium hydroxide.

reactant | tert-butyl 6-bromo-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 3.66 mmol, 1.79 g | BrC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)N2C=NC=C2)C2=CC(=CC=C2)F | C22H22BrFN4O3
reactant | ammonia | 30 ml | N | H3N
solvent | water | O | H2O
product | tert-butyl 8-carbamoyl-6-bromo-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 1.26 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Br)C2=CC(=CC=C2)F | C19H21BrFN3O3
